US07915281B2
1,2-Diaminoethane (7.55 mL, 113 mmol) was added to a 0° C. solution of 2,4-dichloro-3-nitroquinoline (28.9 g, 119 mmol) and triethylamine (24.9 mL, 179 mmol) in dichloromethane (600 mL). The solution was allowed to warm slowly to room temperature and stir for 20 hours. The solvent was removed under reduced pressure and 5% aqueous Na2CO3 (300 mL) was added. The resulting slurry was stirred vigorously at 0° C. for four hours. A yellow solid was isolated by vacuum filtration and dried under vacuum. The solid was purified by suction filter chromatography (silica gel, gradient elution from 98:2 to 93:7 dichloromethane/methanol) to provide the product N-(2-chloro-3-nitroquinolin-4-yl)ethane-1,2-diamine (16.0 g) that contained a small amount of an impurity.

reactant | 1,2-Diaminoethane | 113 mmol, 7.55 mL | NCCN | C2H8N2
reactant | 2,4-dichloro-3-nitroquinoline | 119 mmol, 28.9 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | triethylamine | 179 mmol, 24.9 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | N-(2-chloro-3-nitroquinolin-4-yl)ethane-1,2-diamine | 16.0 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCCN | C11H11ClN4O2
